US07749992B2
Step 2. N-(3,5-Bis-trifluoromethyl-benzyl)-N-[8-chloro-1-(5-methyl-1H-pyrazol-3-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide
To a mixture of N-(3,5-Bis-trifluoromethyl-benzyl)-N-[8-chloro-1-(3-oxo-butyryl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide (0.13 mmol, 72 mg), hydrazine hydrate (1.3 mmol, 40.0 μL) in MeOH (2 mL) was added P4O10 (0.5 g) at room temperature. The resulting suspension was stirred vigorously at 70° C. for 12 h. After completion, the mixture was diluted with water (20 mL), and extracted with EtOAc (3×20 mL). The combined organic layers were washed with water and brine, dried over Na2SO4 and evaporated to dryness. Flash chromatography (EtOAc-Hexane as eluent 1:1) afforded the title compound as viscous foam; Rf 0.28 (EtOAc-Hexane, 1:1, v/v); MS (ES+): 545 (M+H+).

reactant | N-(3,5-Bis-trifluoromethyl-benzyl)-N-[8-chloro-1-(3-oxo-butyryl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide | 0.13 mmol, 72 mg | FC(C=1C=C(CN(C(C)=O)C2C3=C(N(CCC2)C(CC(C)=O)=O)C=C(C=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C25H23ClF6N2O3
reactant | hydrazine hydrate | 1.3 mmol, 40.0 μL | O.NN
reactant | P4O10 | 0.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | N-(3,5-Bis-trifluoromethyl-benzyl)-N-[8-chloro-1-(5-methyl-1H-pyrazol-3-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide | FC(C=1C=C(CN(C(C)=O)C2C3=C(N(CCC2)C2=NNC(=C2)C)C=C(C=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C25H23ClF6N4O
